US06774138B2
3,3,5,5-Tetramethyl-1-(2-pyridinylethynyl)cyclohexanol (200 mg, 0.78 mmol) was dissolved in pyridine. POCl3 (153 mg, 1.0 mmol) was added, and the mixture was heated to reflux for 6 h. After cooling, the POCl3 and pyridine were removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 2:1 hexane:ethyl acetate to afford 2-[(3,3,5,5-tetramethyl-1-cyclohexen-1-yl)ethynyl]pyridine (148 mg, 80% yield) as a light tan solid. M.p. 55-56° C. 1H NMR (CDCl3, 300 MHz) δ 8.56 (m, 1H), 7.62 (m, 1H), 7.40 (d, J=7 Hz, 1H), 7.18 (m, 1H), 6.09 (s, 1H), 2.00 (s, 2H), 1.35 (s, 2H), 1.05 (s, 6H), 0.99 (s, 6H).

reactant | 3,3,5,5-Tetramethyl-1-(2-pyridinylethynyl)cyclohexanol | 0.78 mmol, 200 mg | CC1(CC(CC(C1)(C)C)(O)C#CC1=NC=CC=C1)C | C17H23NO
reactant | POCl3 | 1.0 mmol, 153 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[(3,3,5,5-tetramethyl-1-cyclohexen-1-yl)ethynyl]pyridine | 148 mg, 80% yield | CC1(C=C(CC(C1)(C)C)C#CC1=NC=CC=C1)C | C17H21N
